US04847256
A mixture of 12.2 g of 3-amino-4-cyano-5-methylpyrazole and 24.4 g of 2',5'-dichloro-3-dimethylaminoacrylophenone in 250 ml of glacial acetic acid was heated on a steam bath for 4 hours. The mixture was cooled and filtered and gave 21.28 g of 7-(2,5-dichlorophenyl)-2-methylpyrazolo[1,5-a]pyrimidine-3-carbonitrile as off-white crystals.

reactant | 3-amino-4-cyano-5-methylpyrazole | 12.2 g | NC1=NNC(=C1C#N)C | C5H6N4
reactant | 2',5'-dichloro-3-dimethylaminoacrylophenone | 24.4 g | ClC1=C(C=C(C=C1)Cl)C(C=CN(C)C)=O | C11H11Cl2NO
solvent | acetic acid | 250 ml | C(C)(=O)O | C2H4O2
product | 7-(2,5-dichlorophenyl)-2-methylpyrazolo[1,5-a]pyrimidine-3-carbonitrile | 21.28 g | ClC1=C(C=C(C=C1)Cl)C1=CC=NC=2N1N=C(C2C#N)C | C14H8Cl2N4
